US06162832
To a solution of 4-(2-nitrophenoxy)phenol (1.00 g, 4.3 mmol) in ethanol (50 ml) were added an iron powder (1.21 g, 0.022 g-atom) and a solution of ammonium chloride (0.14 g, 2.6 mmol) in water (10 ml), followed by reflux for 2 hours. The insoluble matter was filtered, and the solvent was evaporated under reduced pressure. The residue was dissolved in ethyl acetate, and after drying, the solvent was evaporated under reduced pressure to give 4-(2-aminophenoxy)phenol (0.85 g).

reactant | 4-(2-nitrophenoxy)phenol | 4.3 mmol, 1.00 g | [N+](=O)([O-])C1=C(OC2=CC=C(C=C2)O)C=CC=C1 | C12H9NO4
reactant | ammonium chloride | 2.6 mmol, 0.14 g | [Cl-].[NH4+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
catalyst | iron | 1.21 g | [Fe] | Fe
product | 4-(2-aminophenoxy)phenol | 0.85 g | NC1=C(OC2=CC=C(C=C2)O)C=CC=C1 | C12H11NO2
